US08748434B2
4-{3-[(6-Chloro-4-o-tolyl-pyridazin-3-yl)-methyl-carbamoyl]-5-trifluoromethyl-benzenesulfonyl}-butyric acid
To a solution of 4-{3-[(6-chloro-4-o-tolyl-pyridazin-3-yl)-methyl-carbamoyl]-5-methyl-benzenesulfonyl}-butyric acid tert-butyl ester (0.055 g, 89.9 μmol) in dichloromethane (1.5 mL) were added anisole (10.7 mg, 10.8 μL, 98.8 μmol) and trifluoroacetic acid (512 mg, 346 μL, 4.49 mmol) and the light yellow solution was stirred at room temperature for 3.5 hours. The reaction mixture was evaporated to dryness and the residue treated with toluene and again completely evaporated. The product was purified by preparative HPLC (Gemini NX column) using a gradient of methanol:water (containing 0.1% formic acid) (20:80 to 98:2). Colorless foam (0.037 g; 74%). MS (ESI+): m/z=556.09 ([M+H]+).

reactant | 4-{3-[(6-chloro-4-o-tolyl-pyridazin-3-yl)-methyl-carbamoyl]-5-methyl-benzenesulfonyl}-butyric acid tert-butyl ester | 89.9 μmol, 0.055 g | C(C)(C)(C)OC(CCCS(=O)(=O)C1=CC(=CC(=C1)C)C(N(C)C=1N=NC(=CC1C1=C(C=CC=C1)C)Cl)=O)=O | C28H32ClN3O5S
reactant | anisole | 98.8 μmol, 10.8 μL, 10.7 mg | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | 4.49 mmol, 346 μL, 512 mg | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
product | 4-{3-[(6-Chloro-4-o-tolyl-pyridazin-3-yl)-methyl-carbamoyl]-5-trifluoromethyl-benzenesulfonyl}-butyric acid | ClC1=CC(=C(N=N1)N(C(=O)C=1C=C(C=C(C1)C(F)(F)F)S(=O)(=O)CCCC(=O)O)C)C1=C(C=CC=C1)C | C24H21ClF3N3O5S
